US07989622B2
2,3-dichloroquinoxaline (1.09 g, 5.48 mmol), 6-chloropyridine-3-sulfonamide (1.05 g, 5.45 mmol), K2CO3 (753 mg, 5.45 mmol) and dry DMSO (30 mL) were combined and heated to 150° C. with vigorous stirring for 3-4 hr. The reaction mixture was allowed to cool to room temperature, then poured into 1% AcOH in ice water (300 mL) with vigorous stirring. The resulting solids were filtered, washed with H2O and dried under high vacuum to give 6-chloro-N-(3-chloroquinoxalin-2-yl)pyridine-3-sulfonamide (1.87 g, 96%). MS (EI) m/z for C13H8Cl2N4O2S: 354.99 (MH+).

reactant | 2,3-dichloroquinoxaline | 5.48 mmol, 1.09 g | ClC1=NC2=CC=CC=C2N=C1Cl | C8H4Cl2N2
reactant | 6-chloropyridine-3-sulfonamide | 5.45 mmol, 1.05 g | ClC1=CC=C(C=N1)S(=O)(=O)N | C5H5ClN2O2S
reactant | K2CO3 | 5.45 mmol, 753 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMSO | 30 mL | CS(=O)C | C2H6OS
solvent | AcOH | CC(=O)O | C2H4O2
product | 6-chloro-N-(3-chloroquinoxalin-2-yl)pyridine-3-sulfonamide | 1.87 g, 96% | ClC1=CC=C(C=N1)S(=O)(=O)NC1=NC2=CC=CC=C2N=C1Cl | C13H8Cl2N4O2S
